US04140717
Following the general procedure of Example 1, to a solution of 4.73 parts of 4,4-dimethoxy-3-oximinoheptane and 0.2 parts anhydrous hydrogen chloride dissolved in 20 parts dry methylene chloride, at 30 to 35° C., under a dry nitrogen atmosphere, was added 1.8 parts of elemental chlorine over a 1/2-hour period. After the addition, the contents were stirred for 1/2-hour and then treated according to the procedure in Example 1 to yield 3.5 parts of 5-chloro-4,4-dimethoxy-3-oximinoheptane as determined by nuclear magnetic resonance spectroscopy.

reactant | 4,4-dimethoxy-3-oximinoheptane | COC(C(CC)=NO)(CCC)OC | C9H19NO3
reactant | hydrogen chloride | Cl | ClH
reactant | chlorine | ClCl | Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-chloro-4,4-dimethoxy-3-oximinoheptane | ClC(C(C(CC)=NO)(OC)OC)CC | C9H18ClNO3
